SimTest
*SPICE Netlist generated by Advanced Sim server on 6/7/2023 2:50:11 PM
.options MixedSimGenerated

*Schematic Netlist:
RR1 Vin NetR1_2 1K TC1=0 TC2=0
RR2 NetR1_2 0 1K TC1=0 TC2=0
VVDD Vin 0 5 AC 1 0

.PROBE {i(R2)} =PLOT(1) =AXIS(2) =UNITS(A) =RGB(255, 0, 0)
.PROBE {V(NetR1_2)} =PLOT(1) =AXIS(1) =NAME(TestProbe) =UNITS(V) =RGB(0, 255, 255)

*Selected Circuit Analyses:
.DC VDD 0 5 500m

.END